US08242104B2
9-Bromo-4,5-dihydro-6-oxa-1,10b-diaza-benzo[e]azulene-2-carboxylic acid ethyl ester (1.51 g, 4.48 mmol) in 2M ammonia/methanol solution (70 mL) was heated in a pressure bomb at approximately 120° C. (external temperature) for 30 h, then allowed to cool. The mixture was filtered and concentrated in vacuo. The resultant residue was subjected to flash chromatography (SiO2, gradient 50 to 100% ethyl acetate in cyclohexane) to give 9-Bromo-4,5-dihydro-6-oxa-1,10b-diaza-benzo[e]azulene-2-carboxylic acid amide as a pale yellow solid (1.11 g, 80%). LCMS: RT=4.00 min, M+H+=308/310, [M+Na]+=330/332.

reactant | 9-Bromo-4,5-dihydro-6-oxa-1,10b-diaza-benzo[e]azulene-2-carboxylic acid ethyl ester | 4.48 mmol, 1.51 g | C(C)OC(=O)C=1C=C2CCOC3=C(N2N1)C=C(C=C3)Br | C14H13BrN2O3
reactant | ammonia methanol | 2M, 70 mL | N.CO
product | 9-Bromo-4,5-dihydro-6-oxa-1,10b-diaza-benzo[e]azulene-2-carboxylic acid amide | 1.11 g, 80% | BrC=1C=CC2=C(N3N=C(C=C3CCO2)C(=O)N)C1 | C12H10BrN3O2
